US07767625B2
Preparation of 3-(1,1-dimethypropyl)-2-methyl-phenylamine
2,21 g (10.77 mmol) N-(2-methyl-3-(1,1-dimethylpropyl)phenyl)form-amide, 1,42 g (21.54 mmol) 85% potassium hydroxide and 9 ml methanol are heated under stirring at reflux temperature for 15 hours. After cooling 100 ml of water is added and the reaction mixture is extracted with ethylacetate. After drying of the organic phase over sodium sulfate and evaporation of the solvent in a water jet vacuum, the product is purified by destillation (bp. ca. 70° C., 13,33 Pa). This gives 1.7 g of 2-Methyl-3-(1,1-dimethylpropyl)phenylamine in the form of a colourless oil (89% of theory).

reactant | N-(2-methyl-3-(1,1-dimethylpropyl)phenyl)form-amide | 10.77 mmol, 2,21 g | CC1=C(C=CC=C1C(CC)(C)C)NC=O | C13H19NO
reactant | potassium hydroxide | 21.54 mmol, 1,42 g | [OH-].[K+]
reactant | methanol | 9 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 3-(1,1-dimethypropyl)-2-methyl-phenylamine | CC(CC)(C)C=1C(=C(C=CC1)N)C | C12H19N
